US05001131
5,6,7,8-Tetrahydro-3-methyl-8-phenylthioquinoline
n-Butyl lithium in n-hexane (90ml 1.25M) was added to a stirred mixture of 5,6,7,8-tetrahydro-3-methylquinoline (7.4g) and diisopropylamine (10ml) in tetrahydrofuran (200ml) at -78° C. The reaction was stirred for 30 minutes then a solution of diphenyl disulphide (10.9g) in tetrahydrofuran (100ml) was added dropwise over 45 minutes. The mixture was stirred for 1 hour while allowing it to warm up to room temperature. The mixture was quenched with water, concentrated and partitioned between ether and water. The organic layer was washed with 2M sodium hydroxide. The organic layer was extracted into dilute HCl (2M), basified and extracted with CH2Cl2, dried (MgSO4) and concentrated to obtain 12.85g of the title compound. The solid was converted to the hydrochloride and recrystallised from ethyl acetate/methanol mp 173°-176° C.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 5,6,7,8-tetrahydro-3-methylquinoline | 7.4g | CC=1C=NC=2CCCCC2C1 | C10H13N
reactant | diisopropylamine | 10ml | C(C)(C)NC(C)C | C6H15N
reactant | diphenyl disulphide | 10.9g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | n-hexane | 1.25M, 90ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 200ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100ml | O1CCCC1 | C4H8O
product | 5,6,7,8-Tetrahydro-3-methyl-8-phenylthioquinoline | 12.85g | CC=1C=NC=2C(CCCC2C1)SC1=CC=CC=C1 | C16H17NS
